US06211177B1
(A) N-(2-Nitro-4-methoxyphenyl)(3,4,5-trimethoxybenzamide)
To a solution of 4-methoxy-2-nitroaniline (45 mmole, 6.8 g) in dichloromethane (120 ml) and pyridine (75 mmole, 6 ml) is added 3,4,5-trimethoxybenzoylchloride (50 mmole, 11.5 g) in dichloromethane (40 ml). The mixture is stirred at room temperature over night. The precipitate is filtered off and dried in vacuo to yield the title product as an orange solid (74%).

reactant | 4-methoxy-2-nitroaniline | 45 mmole, 6.8 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | pyridine | 75 mmole, 6 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4,5-trimethoxybenzoylchloride | 50 mmole, 11.5 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-(2-Nitro-4-methoxyphenyl)(3,4,5-trimethoxybenzamide) | 74% | [N+](=O)([O-])C1=C(C=CC(=C1)OC)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C17H18N2O7
